US09260427B2
Prepared using General Procedure 17: To a stirred a solution of 5-bromo-2-chloro-4-(trifluoromethyl)pyridine (150 mg, 0.576 mmol) in acetonitrile (2 mL) was added sodium iodide (518 mg, 3.45 mmol). The reaction mixture was heated to 40° C. and acetyl chloride (26.0 mg, 0.345 mmol) was added. The reaction mixture was stirred at 40° C. for 90 min. Once cooled, the reaction was quenched with NaHCO3 (5 mL) and extracted with EA (3×5 mL). The combined organics were washed with brine (10 mL), dried over MgSO4 and concentrated to give 80.0 mg (40%) of 5-bromo-2-iodo-4-(trifluoromethyl)pyridine as a white crystalline solid which was used in the subsequent step without purification. LCMS-ESI (m/z) calculated for C6H2BrF3IN, 351.9. found 352.5 [M+H]+, tR=3.91 min. (Method 1).

reactant | 5-bromo-2-chloro-4-(trifluoromethyl)pyridine | 0.576 mmol, 150 mg | BrC=1C(=CC(=NC1)Cl)C(F)(F)F | C6H2BrClF3N
reactant | sodium iodide | 3.45 mmol, 518 mg | [I-].[Na+]
reactant | acetyl chloride | 0.345 mmol, 26.0 mg | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 5-bromo-2-iodo-4-(trifluoromethyl)pyridine | 80.0 mg, 40% | BrC=1C(=CC(=NC1)I)C(F)(F)F | C6H2BrF3IN
